US05874436
N-(t-butoxycarbonyl)-3-(4-hydroxyphenyl)-propylamine
A mixture of 3-(4-hydroxyphenyl)propionitrile (5.0 g, 34 mmol), 5% rhodium on alumina (0.5 g), methanol (75 mL) and concentrated ammonium hydroxide solution (25 mL) was shaken under 50 psi hydrogen for 40 hr. Filtration and evaporation of solvent left crude 3-(4-hydroxyphenyl) propylamine as a colorless oil. This oil was dissolved in THF (100 mL) and di-t-butyl dicarbonate (8.5 g, 38 mmol) was added. When the ensuing exothermic reaction and gas evolution ceased, the mixture was concentrated to an oil, and chromatographed on silica gel with 1% isopropanol in 5:1 hexane-ethyl acetate. The title compound was obtained as a colorless gum (5.1 g).

reactant | 3-(4-hydroxyphenyl)propionitrile | 34 mmol, 5.0 g | OC1=CC=C(C=C1)CCC#N | C9H9NO
reactant | ammonium hydroxide | 25 mL | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
reactant | di-t-butyl dicarbonate | 38 mmol, 8.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | rhodium on alumina | 0.5 g | [Rh] | Rh
solvent | methanol | 75 mL | CO | CH4O
product | N-(t-butoxycarbonyl)-3-(4-hydroxyphenyl)-propylamine | C(C)(C)(C)OC(=O)NCCCC1=CC=C(C=C1)O | C14H21NO3
